US07767675B2
5-{2-Fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenyl}-N,N-dimethylpyridine-2-carboxamide
This compound was prepared as a TFA salt starting from 6-{1-[6-(4-bromo-3-fluorophenyl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline using procedures analogous to those for Example 85. LCMS: (M+H)=529.0.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-{1-[6-(4-bromo-3-fluorophenyl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline | BrC1=C(C=C(C=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)F | C24H16BrFN4
product | 5-{2-Fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]phenyl}-N,N-dimethylpyridine-2-carboxamide | FC1=C(C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)C=2C=CC(=NC2)C(=O)N(C)C | C32H25FN6O
